US09085555B2
A. N-(3-Chloro-2-fluoro-benzyl)-acrylamide
To a solution of 2-fluoro-3-chlorobenzylamine (1 g, 6.27 mmol) and TEA (1.05 mL, 7.52 mmol) in THF (20.9 mL) was added acryloyl chloride (0.61 mL, 7.52 mmol) dropwise and the reaction mixture was stirred at 23° C. for 2 h. The reaction mixture was diluted in EtOAc, HCl 1N was added and the layers separated. The aqueous layer was extracted again with EtOAc and the combined organic layers were dried, filtered and concentrated to dryness. The crude residue was purified by flash column chromatography on silica gel (xyclohexane/EtOAc gradient 100:0 to 1:1) to give the desired material. TLC, Rf (c-hexane/EtOAc 5:5)=0.41; MS (LC/MS): 214.0 [M+H]+; tR (HPLC conditions b): 3.35 min.

reactant | 2-fluoro-3-chlorobenzylamine | 6.27 mmol, 1 g | FC1=C(CN)C=CC=C1Cl | C7H7ClFN
reactant | acryloyl chloride | 7.52 mmol, 0.61 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20.9 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Chloro-2-fluoro-benzyl)-acrylamide | ClC=1C(=C(CNC(C=C)=O)C=CC1)F | C10H9ClFNO
